US09062048B2
Step B: tert-butyl 3-oxocyclobutylcarbamate
Into a 50 mL round-bottom flask, was placed a solution of 3-aminocyclobutanone (as prepared in the previous step) (250 mg, 2.94 mmol, 1.00 equiv) in N,N-dimethylformamide (15 mL), triethylamine (351 mg, 3.48 mmol) and (Boc)2O (697 mg, 3.20 mmol, 1.09 equiv). The reaction mixture was stirred for 5 h at room temperature. The reaction was then quenched by the addition of 10 mL of H2O. The resulting solution was extracted with 3×20 mL of ethyl acetate. The combined organic layers was washed with 3×10 mL brine, dried over sodium sulfate, and concentrated under vacuum. The title compound was obtained as a yellow solid.

reactant | 3-aminocyclobutanone | NC1CC(C1)=O | C4H7NO
reactant | triethylamine | 3.48 mmol, 351 mg | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | 3.20 mmol, 697 mg, 1.09 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | tert-butyl 3-oxocyclobutylcarbamate | O=C1CC(C1)NC(OC(C)(C)C)=O | C9H15NO3
